US05696122
N-[4-methoxy-3-(4-methyl-1-piperazinyl)phenyl] aminoacetaldehyde dimethyl acetal
A suspension of 4-methoxy-3-(4-methyl-1-piperazinyl) benzenamine (5 g, 0.023 mol) in ethanol (150 ml) and dimethoxyethanal (9.5 g, 1.2 eq) was hydrogenated over 10% Palladium on charcoal (3 g) at standard temperature and pressure for 3 h. The suspension was filtered through kieselguhr, washed with methanol and evaporated to give a pale yellow oil. Purification by Fcc, eluting with 2% methanol/dichloromethane afforded the title compound (6.64 g, 95%).

reactant | 4-methoxy-3-(4-methyl-1-piperazinyl) benzenamine | 0.023 mol, 5 g | COC1=C(C=C(C=C1)N)N1CCN(CC1)C | C12H19N3O
reactant | dimethoxyethanal | 9.5 g, 1.2 eq | COC(C=O)OC | C4H8O3
solvent | ethanol | 150 ml | C(C)O | C2H6O
catalyst | Palladium on charcoal | 3 g | [Pd] | Pd
product | N-[4-methoxy-3-(4-methyl-1-piperazinyl)phenyl] aminoacetaldehyde dimethyl acetal | 6.64 g, 95% | COC(CNC1=CC(=C(C=C1)OC)N1CCN(CC1)C)OC | C16H27N3O3
